### ISSUE TITLE
`rw` tactic "steals" goals (again)

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#12135]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Consider this code:

```lean
example {l : List Nat} {P : Prop} {l' l'' : P → List Nat} {a : Nat}
    (hl : (hp : P) → l = a :: l' hp) (hl' : (hp : P) → l' hp = l'' hp) (h : P) :
    l = a :: l'' h := by
  rw [hl]
  · sorry
  · sorry
```

After the `rw`, there are two goals: `a :: l' ?m.7 = a :: l'' h` and `P`. Now, if I replace the first `sorry` with `rw [hl']`, the second goal disappears:

```lean
example {l : List Nat} {P : Prop} {l' l'' : P → List Nat} {a : Nat}
    (hl : (hp : P) → l = a :: l' hp) (hl' : (hp : P) → l' hp = l'' hp) (h : P) :
    l = a :: l'' h := by
  rw [hl]
  · rw [hl']
  · sorry -- No goals to be solved
```

### Context

This is the same issue as #10172, just with a different reproducer that is still broken after the fix for the earlier issue.

**Expected behavior:** `rw [hl']` should close the first branch and leave the second branch open.

**Actual behavior:** Second goal disappears.

### Versions

```
Lean 4.28.0-nightly-2026-01-23
Target: x86_64-unknown-linux-gnu
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
